US08030504B2
6-Chlorochroman-3-one
To a solution of 6-chloro-2H-chromene-3-carboxylic acid (Avocado, 4.90 g, 23.3 mmol) in dichloromethane (50 mL) was added triethylamine (4 mL) and diphenylphosphoryl azide (7.04 g, 25.6 mmol) in toluene (20 mL). The flask was equipped with a Dean-Stark trap, and the mixture was heated to reflux. After 1.5 hours, toluene (50 mL) was added and the mixture continued to reflux for 2.5 hours and was then cooled to ambient temperature. Hydrochloric acid (6N, 40 mL) was added, and the biphasic mixture was heated at reflux for 3.5 hours then cooled to ambient temperature. Ethyl acetate (200 mL) and water (200 mL) were added and the separated organic layer was washed sequentially with saturated sodium bicarbonate (2×200 mL) followed by brine. The organic layer was dried over anhydrous sodium sulfate, filtered, concentrate under reduced pressure, and chromatographed on silica gel eluting with 10-to-60% dichloromethane in hexane to afford the title compound. MS (DCI) m/z 181.97 (M+H)+.

reactant | 6-chloro-2H-chromene-3-carboxylic acid | 23.3 mmol, 4.90 g | ClC=1C=C2C=C(COC2=CC1)C(=O)O | C10H7ClO3
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 25.6 mmol, 7.04 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Hydrochloric acid | 6N, 40 mL | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 mL | O | H2O
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 6-Chlorochroman-3-one | ClC=1C=C2CC(COC2=CC1)=O | C9H7ClO2
